.subckt inv_x4 vdd vss i nq
Mnmos[0] vss i nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mpmos[0] vdd i nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
Mnmos[1] nq i vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mpmos[1] nq i vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
Mnmos[2] vss i nq vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mpmos[2] vdd i nq vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
Mnmos[3] nq i vss vss sky130_fd_pr__nfet_01v8__model l=1.5e-07 w=1.685e-06
Mpmos[3] nq i vdd vdd sky130_fd_pr__pfet_01v8__model l=1.5e-07 w=2.045e-06
.ends inv_x4
